US03962443
2-(4-Acetyl-1-piperazinyl)-5,8-dihydro-8-ethyl-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid (compound 10)
To a solution of 0.45 g of 2-(4-acetyl-1-piperazinyl)-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid in 30 ml of sodium carbonate was added two 0.5 ml portions of diethyl sulfate with stirring at room temperature. After the completion of the reaction the mixture was neutralized with acetic acid. The precipitate resulted was collected and recrystallized from dimthylformamide to yield 0.4 g of the product, m.p. 298° - 300°C.

reactant | 2-(4-acetyl-1-piperazinyl)-5,8-dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 0.45 g | C(C)(=O)N1CCN(CC1)C=1N=CC2=C(N1)NC=C(C2=O)C(=O)O | C14H15N5O4
reactant | diethyl sulfate | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium carbonate | 30 ml | C([O-])([O-])=O.[Na+].[Na+]
product | 2-(4-Acetyl-1-piperazinyl)-5,8-dihydro-8-ethyl-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 0.4 g | C(C)(=O)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C16H19N5O4
